US06815448B2
1-(2-Methyl-7,8-dihydro-1,6,9-trioxa-3-aza-cyclopenta[a]naphthalen-8-ylmethyl)-4-[3-(trifluoromethyl)phenyl]-4-piperidinol
(8R)-2-Methyl-7,8-dihydro[1,4]dioxino[2,3-g][1,3]benzoxazol-8-ylmethyl 4-methylbenzenesulfonate (0.43 g, 1.14 mmole) and 4-[3-(trifluoromethyl)phenyl]-4-piperidinol (0.84 g, 3.43 mmole) were combined in 10 mL of DMSO under nitrogen. This solution was heated to 80° C. under nitrogen for 4 hours. After completion, the reaction was allowed to cool to room temperature and was partitioned between ethyl acetate and saturated aqueous sodium bicarbonate. The organic phase was washed with brine, dried over magnesium sulfate and concentrated in vacuum. The resulting crude oil was column chromatographed on silica gel using first methylene chloride to remove impurities and then 1% methanol/methylene chloride to elute 0.33 g of the (S)-enantiomer of the title compound, m.p. 148-151° C.

reactant | (8R)-2-Methyl-7,8-dihydro[1,4]dioxino[2,3-g][1,3]benzoxazol-8-ylmethyl 4-methylbenzenesulfonate | 1.14 mmole, 0.43 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@@H]1OC2=C(C=CC=3N=C(OC32)C)OC1 | C18H17NO6S
reactant | 4-[3-(trifluoromethyl)phenyl]-4-piperidinol | 3.43 mmole, 0.84 g | FC(C=1C=C(C=CC1)C1(CCNCC1)O)(F)F | C12H14F3NO
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
product | 1-(2-Methyl-7,8-dihydro-1,6,9-trioxa-3-aza-cyclopenta[a]naphthalen-8-ylmethyl)-4-[3-(trifluoromethyl)phenyl]-4-piperidinol | CC1=NC=2C(=C3OC(COC3=CC2)CN2CCC(CC2)(O)C2=CC(=CC=C2)C(F)(F)F)O1 | C23H23F3N2O4
